US06313126B1
4-Fluoro-3-[cis-4-[4-(1H-indol-4-yl)-1-piperazinyl]cyclohexyl]-1H-indole
A solution of 4-(4-fluoro-1H-indol-3-yl)-cyclohexanone (0.88 g, 3.8 mmol), 1-(indol-4-yl)piperazine (0.7 g, 3.5 mmol), sodium triacetoxyborohydride (1.1 g, 5.2 mmol) and acetic acid (0.4 ml, 7 mmol) in 1,2-dichloroethane (20 ml) was allowed to stir at room temperature overnight. The reaction was quenched with 1N sodium hydroxide (10 ml), extracted with methylene chloride (3×60 ml), and washed with brine (3×60 ml). The organic layer was dried over anhydrous sodium sulfate and filtered. Chromatography (5-7% methanol-ethyl acetate) afforded 1.14 g (79%) of product as a white foam.

reactant | 4-(4-fluoro-1H-indol-3-yl)-cyclohexanone | 3.8 mmol, 0.88 g | FC1=C2C(=CNC2=CC=C1)C1CCC(CC1)=O | C14H14FNO
reactant | 1-(indol-4-yl)piperazine | 3.5 mmol, 0.7 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
reactant | sodium triacetoxyborohydride | 5.2 mmol, 1.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 7 mmol, 0.4 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 4-Fluoro-3-[cis-4-[4-(1H-indol-4-yl)-1-piperazinyl]cyclohexyl]-1H-indole | 1.14 g, 79% | FC1=C2C(=CNC2=CC=C1)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C26H29FN4
